US04636521
(ii) N-[(4-Aminophenyl)methyl]methanesulphonamide
A solution of N-[(4-nitrophenyl)methyl]methanesulphonamide (2.5 g) in a mixture of ethanol (90 ml) and ethyl acetate (90 ml) was hydrogenated at room temperature and pressure over palladium oxide on charcoal (10%; 50% paste with water, 1 g) until uptake of hydrogen ceased (15 min., 820 ml).

reactant | N-[(4-nitrophenyl)methyl]methanesulphonamide | 2.5 g | [N+](=O)([O-])C1=CC=C(C=C1)CNS(=O)(=O)C | C8H10N2O4S
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 90 ml | C(C)O | C2H6O
solvent | ethyl acetate | 90 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium oxide | [Pd]=O
product | N-[(4-Aminophenyl)methyl]methanesulphonamide | NC1=CC=C(C=C1)CNS(=O)(=O)C | C8H12N2O2S
